US05162532
To a solution of tert-butyllithium (1.7M in pentane, 48.5 mL, 83.0 mmol) in 150 mL of THF at -78° C. was added 6-chloro-2-methoxypyridine (8.94 mL, 75.0 mmol) over 5 min. The reaction mixture was stirred at -78° C. for 1 h, then dimethylformamide (7.55 mL, 97 mmol) was added and the mixture was stirred at this temperature for 1.5 h. After the addition of glacial acetic acid (8.6 mL, 150 mmol), the reaction mixture was allowed to warm to room temperature over a 30- min period, then diluted with ether (200 mL). The organic phase was washed with saturated aqueous NaHCO3 (100 mL) and brine (100 mL), and was dried over MgSO4. Concentration afforded the crude product as a light yellow solid which was recrystallized from hexanes to give 9.6 g (75%) of 6-chloro-2-methoxy-3-pyridinecarboxaldehyde as a white solid: mp 80°-81° C. (mp 62°-64° C.)(See Dainter, R. S.; Suschitzky, H.; Wakefield, B. J. Tetrahedron Lett. 1984, 25, 5693.). 1H NMR (300 MHz, CDCl3) δ 10.31 (s, 1H), 8.07 (d, 1H, J=9 Hz), 7.03 (d, 1H, J=9 Hz), 4.09 (s, 3H); IR (nujol) 1685, 1580, 1565, 1270, 1140, 1090, 1005, 905, 820, 755 cm-1.

reactant | tert-butyllithium | 83.0 mmol, 1.7M, 48.5 mL | C(C)(C)(C)[Li]
reactant | 6-chloro-2-methoxypyridine | 75.0 mmol, 8.94 mL | ClC1=CC=CC(=N1)OC | C6H6ClNO
reactant | dimethylformamide | 97 mmol, 7.55 mL | CN(C=O)C | C3H7NO
reactant | acetic acid | 150 mmol, 8.6 mL | C(C)(=O)O | C2H4O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 6-chloro-2-methoxy-3-pyridinecarboxaldehyde | 9.6 g, 75% | ClC1=CC=C(C(=N1)OC)C=O | C7H6ClNO2
